US05324747
To an ice bath cooled solution of 0.80 g (2.69 mmol) of di-decylamine and 0.75 mL (5.4 mmol) of triethylamine in 10 mL of anhydrous methylene chloride was added dropwise a solution of 0.50 g (2.69 mmol) of 3-nitrobenzoyl chloride in 5 mL of methylene chloride with stirring. The mixture was stirred at room temperature for 4 hours. Water was added, the organic layer was separated and dried. The solvent was removed at reduced pressure and the residual oil was purified by chromatography on 30 g of silica gel using 12.5% ethyl acetate-hexane to give 1.0 g of 3-(di-decylaminocarbonyl)-1-nitrobenzene as an oil. The nmr and mass spectra were consistent with the structure. A mixture of 1.0 g of 3-(di-decylaminocarbonyl)-1-nitrobenzene and 0.2 g of 10% palladium on carbon in 20 mL of ethyl acetate and 20 mL of THF was stirred under a hydrogen atmosphere at room temperature for 2 hours when hydrogen uptake ceased. The catalyst was removed by filtration and the filtrate was concentrated to give 1.0 g of 3-(di-decylaminocarbonyl)benzenamine as an oil. The nmr and mass spectra were consistent with the structure.

reactant | 3-(di-decylaminocarbonyl)-1-nitrobenzene | 1.0 g | C(CCCCCCCCC)N(C(=O)C=1C=C(C=CC1)[N+](=O)[O-])CCCCCCCCCC | C27H46N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(di-decylaminocarbonyl)benzenamine | 1.0 g | C(CCCCCCCCC)N(C(=O)C=1C=C(C=CC1)N)CCCCCCCCCC | C27H48N2O
